US05610293
I. Synthesis of 2-Octadecyl-1,4,7,10,13-pentaazacyclopentadecane
To a slurry of 5-octadecyl-1,10,13-tris(p-toluenesulfonyl)-1,4,7,10,13-pentaazacylopentadecane-3,8-dione prepared as in Example 28H (4.00 g, 4.18 mmol) in anhydrous THF (100 ml) under a dry argon atmosphere was added a solution of lithium aluminum hydride in anhydrous THF (105 ml-1.0M, 105 mmol). The resulting solution was refluxed for 40 h. The mixture was quenched by the dropwise addition at 0° C. of H2O (3.25 ml), then 15% NaOH (3.25 ml) and finally H2O (9.60 ml). The resulting slurry was stirred for 1 h, THF (200 ml) was added and the white solid was filtered. The solid was washed with THF (200 ml) and then hot THF (300 ml). The filtrate and washings were combined and the solvent was removed in vacuo. The crude product was purified by recrystallization from THF--ethyl ether and then hexanes to give 1.21 g (62% yield) of the product as a white crystalline solid: mp 99°-100° C.; 1H NMR (CDCl3) δ 0.88 (t, J=6.7 Hz, 3 H), 1.25 (m, 33 H), 1.52 (m, 1 H), 1.66 (br s, 5 H), 2.34 (m, 1 H), 2.72 (m, 18 H); Exact mass (M+H)+: calcd., 468.5005; found, 468.5034 (C28H62N5).

reactant | 5-octadecyl-1,10,13-tris(p-toluenesulfonyl)-1,4,7,10,13-pentaazacylopentadecane-3,8-dione | C(CCCCCCCCCCCCCCCCC)C1NC(CN(CCN(CCN(CC(NC1)=O)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)=O | C49H75N5O8S3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 105 mmol | C1CCOC1 | C4H8O
product | 2-Octadecyl-1,4,7,10,13-pentaazacyclopentadecane | 1.21 g, 62% yield | C(CCCCCCCCCCCCCCCCC)C1NCCNCCNCCNCCNC1 | C28H61N5
